US04096337
n-Butyl lithium (16.2 ml. of a 1.23M solution in hexane) was added dropwise to a stirred solution of dimethyl methylphosphonate (2.48 g.) in dry tetrahydrofuran (25ml.) at -78° C. in an atmosphere of argon. After 10 minutes, a solution of methyl 3-(4-chlorophenyl)-cyclobutanecarboxylate mixed isomers (2.24g.) in dry tetrahydrofuran (25ml.) was added dropwise, and stirred at -78° C. for 2 hours. The reaction mixture was warmed to room temperature and neutralised by the addition of 1N hydrochloric acid (20ml.) to the stirred solution. The tetrahydrofuran was evaporated, and the residue was partitioned between ethyl acetate and water. The ethyl acetate extract was dried over sodium sulphate and the solvent was evaporated. The crude product was purified by dry column chromatography on "Kieselgel 60" (100g.) eluting with ethyl acetate, to give dimethyl 2-[3-(4-chlorophenyl)-cyclobutyl]-2-oxoethylphosphonate, as a mixture of cis and trans isomers, RF = 0.35 and 0.40 (ethyl acetate). The n.m.r. spectrum in deuteriochloroform showed the following characteristic signals (δ values):-

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | dimethyl methylphosphonate | 2.48 g | CP(OC)(OC)=O | C3H9O3P
reactant | methyl 3-(4-chlorophenyl)-cyclobutanecarboxylate | ClC1=CC=C(C=C1)C1CC(C1)C(=O)OC | C12H13ClO2
reactant | hydrochloric acid | 1N, 20ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25ml | O1CCCC1 | C4H8O
product | dimethyl 2-[3-(4-chlorophenyl)-cyclobutyl]-2-oxoethylphosphonate | ClC1=CC=C(C=C1)C1CC(C1)C(CP(OC)(OC)=O)=O | C14H18ClO4P
